US05045229
2-(4-Cyanophenyl)-2,2-difluoro-1-[4-(trans-4-pentylcyclohexyl)phenyl]ethanone
0.08 mol of bromodifluoro(4-cyanophenyl)methane [prepared by the method of A. Haas, M. Spitzer, M. Lieb, Chem. Ber. 121 (1988)] are dissolved in 50 ml of THF; at -78°, 50 ml of a 1.6 molar solution of butyllithium in hexane are added dropwise. The mixture is stirred for 15 minutes, and then a solution of 0.08 mol of 4-(trans-4-pentylcyclohexyl)benzonitrile in 60 ml of THF is added dropwise. The mixture is allowed to warm to 0° and then poured into a mixture of ice and dilute hydrochloric acid. The organic phase is separated off, and the aqueous phase is extracted with ether (50 ml) and dichloromethane (2×25 ml). The organic phases are combined, the solvents are removed by distillation, and the residue is chromatographed on a silica gel column using petroleum ether/ether as the eluent. After the eluate has been evaporated, the residue is recrystallized from ethanol.

reactant | bromodifluoro(4-cyanophenyl)methane | 0.08 mol | BrC(C1=CC=C(C=C1)C#N)(F)F | C8H4BrF2N
reactant | butyllithium | C(CCC)[Li]
reactant | 4-(trans-4-pentylcyclohexyl)benzonitrile | 0.08 mol | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C18H25N
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(4-Cyanophenyl)-2,2-difluoro-1-[4-(trans-4-pentylcyclohexyl)phenyl]ethanone | C(#N)C1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)(F)F | C26H29F2NO
